US04000285
2-Furoylisothiocyanate is prepared from 2-furoyl chloride (13 g., 0.1 moles) and potassium thiocyanate (9.7 g., 0.1 moles) in acetone (35 ml.). The mixture is stirred at 10° C. for 15 minutes. 2,3-Diaminopyridine (2.8 g., 0.0257 moles) is added as a solid, the mixture stirred at 10° C. and allowed to warm to room temperature for three hours. The yellow solid is filtered, washed with acetone, slurried in 500 ml. water, filtered, washed with water and air dried. The product, 8.45 g. (80%) is purified by recrystallization from acetone giving 6.1 g. (57%) of desired product, as yellow crystals, m.p. 174° C. dec., of 2,3-bis[3-(2-furoyl)-2-thioureido]pyridine.

reactant | 2-furoyl chloride | 0.1 moles, 13 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | potassium thiocyanate | 0.1 moles, 9.7 g | [S-]C#N.[K+]
reactant | 2,3-Diaminopyridine | 0.0257 moles, 2.8 g | NC1=NC=CC=C1N | C5H7N3
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 2-Furoylisothiocyanate | O1C(=CC=C1)C(=O)N=C=S | C6H3NO2S
